US06335459B1
{3-[(Diphenylcarbamoyloxy)methyl]-2-methylphenoxy}acetic acid tert-butyl ester (104.1 g, 233 mmol) and lithium hydroxide (10.3 g, 245 mmol) were dissolved in a mixture of water (100 mL), methanol (300 mL), and tetrahydrofuran (300 mL). The mixture became solid, but reliquefied upon heating at reflux temperature. The clear solution was stirred at room temperature for about 16 hours, and evaporated in vacuo. The residue was poured into dilute hydrochloric acid and extracted with dichloromethane. Evaporation of the solvent and recrystallization of the residue from hexane/acetone gave {3-[(diphenylcarbamoyloxy)methyl]-2-methylphenoxy}acetic acid as off-white granules (87.0 g, 95%); m.p. 180.1-180.7° C. Analysis for C23H21NO5: Calcd.: C, 70.58; H, 5.41; N, 3.58. Found: C, 70.51; H, 5.37; N, 3.76.

reactant | {3-[(Diphenylcarbamoyloxy)methyl]-2-methylphenoxy}acetic acid tert-butyl ester | 233 mmol, 104.1 g | C(C)(C)(C)OC(COC1=C(C(=CC=C1)COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)=O | C27H29NO5
reactant | lithium hydroxide | 245 mmol, 10.3 g | [OH-].[Li+]
solvent | water | 100 mL | O | H2O
solvent | methanol | 300 mL | CO | CH4O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | {3-[(diphenylcarbamoyloxy)methyl]-2-methylphenoxy}acetic acid | C1(=CC=CC=C1)N(C(=O)OCC=1C(=C(OCC(=O)O)C=CC1)C)C1=CC=CC=C1 | C23H21NO5
